US05449676
5.0 g (18 mmol) of 3-hydrazino-6-(4-difluoromethoxy-3-methoxyphenyl)pyridazine are dissolved in 50 ml of ethanol and 2.3 ml (27 mmol) of concentrated hydrochloric acid, 1 g of palladium/carbon and 3.4 g (54 mmol) of ammonium formate are added, and the mixture is heated to 80° C. After evolution of gases has ceased, the mixture is stirred for a further 3 hours, filtered to remove the catalyst, and the solution is stirred in 1 l water and made alkaline with concentrated ammonia, and the resulting precipitate is collected on a suction funnel. The filter cake is thoroughly washed with water and then dried and chromatographed in a 95:5 mixture of dichloromethane/methanol on silica gel. The appropriate fractions are concentrated in vacuo. 3 g (63.6%) of 3-amino-6-(4-difluoromethoxy-3-methoxyphenyl)pyridazine of m.p. 184° C. are obtained.

reactant | 3-hydrazino-6-(4-difluoromethoxy-3-methoxyphenyl)pyridazine | 18 mmol, 5.0 g | N(N)C=1N=NC(=CC1)C1=CC(=C(C=C1)OC(F)F)OC | C12H12F2N4O2
reactant | hydrochloric acid | 27 mmol, 2.3 ml | Cl | ClH
reactant | ammonium formate | 54 mmol, 3.4 g | C(=O)[O-].[NH4+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 1 g | [Pd] | Pd
product | 3-amino-6-(4-difluoromethoxy-3-methoxyphenyl)pyridazine | 3 g, 63.6% | NC=1N=NC(=CC1)C1=CC(=C(C=C1)OC(F)F)OC | C12H11F2N3O2
